US06191130B1
a) 2-Acetyl-2H-[1,2,4]triazine-3,5-dione (1a)
2H-[1,2,4]Triazin-3,5-dione (100 g, 884 mmol) is placed in 600 ml of acetic anhydride at reflux for 1.5 h. The reaction mixture is subsequently concentrated to dryness and the solid obtained is triturated in toluene. After filtering and rinsing with toluene, 130.5 g of beige crystals are isolated.

reactant | 2H-[1,2,4]Triazin-3,5-dione | 884 mmol, 100 g | N=1NC(NC(C1)=O)=O | C3H3N3O2
reactant | acetic anhydride | 600 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetyl-2H-[1,2,4]triazine-3,5-dione | C(C)(=O)N1N=CC(NC1=O)=O | C5H5N3O3
